US06121307
5-Fluoro-3-(3-p-toluenesulfonyloxypropyl)indole
To a stirred solution of 3-(5-fluoro-1H-indol-3-yl)-propan-1-ol (2.90 g, 15.0 mmol) in pyridine (15.0 mL) was added p-toluenesulfonyl chloride (7.1 g, 37.5 mmol) at room temperature. After stirring for 30 minutes at room temperature, the reaction mixture was poured to 200 mL of ice water. The aqueous was extracted with ethyl acetate and the combined organic extracts were washed with 1N HCl and brine. The resulting material was dried over anhydrous sodium sulfate, filtered, and the solvent was concentrated under vacuum. The crude product was purified by silica gel column chromatography (ethyl acetate/hexane, 3/7) to give 4.1 g (79%) of the title compound as a solid: mp 74° C. (Lit. mp 99° C.; EP 464604 A2).

reactant | 3-(5-fluoro-1H-indol-3-yl)-propan-1-ol | 15.0 mmol, 2.90 g | FC=1C=C2C(=CNC2=CC1)CCCO | C11H12FNO
reactant | p-toluenesulfonyl chloride | 37.5 mmol, 7.1 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 15.0 mL | N1=CC=CC=C1 | C5H5N
product | 5-Fluoro-3-(3-p-toluenesulfonyloxypropyl)indole | 4.1 g, 79% | FC=1C=C2C(=CNC2=CC1)CCCOS(=O)(=O)C1=CC=C(C=C1)C | C18H18FNO3S
